US08242125B2
87-A. [6-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-pyrimidin-4-yl]-methanol
In a 20 mL microwave vial is placed 5-(6-benzyloxymethyl-pyrimidin-4-yloxy)-4-fluoro-2-methyl-1H-indole (2.59 g, 7.13 mmol) in methane sulfonic acid (15 ml) and the solution is heated in a microwave reactor at 100° C. for 5 min. The reaction is then diluted with 250 mL EtOAc and saturated aqueous NaHCO3. The aqueous layer is washed with EtOAc (4×100 mL). The organic phases are combined, washed with (2×150 mL) water, followed by (1×60 mL brine), dried over Na2SO4, and concentrated in vacuo. The residue is purified via FCC (0-20% MeOH/DCM) to give the title compound. MS (ESI) m/z 274.1 (M+1).

reactant | 5-(6-benzyloxymethyl-pyrimidin-4-yloxy)-4-fluoro-2-methyl-1H-indole | 7.13 mmol, 2.59 g | C(C1=CC=CC=C1)OCC1=CC(=NC=N1)OC=1C(=C2C=C(NC2=CC1)C)F | C21H18FN3O2
solvent | methane sulfonic acid | 15 ml | CS(=O)(=O)O | CH4O3S
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | [6-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-pyrimidin-4-yl]-methanol | FC1=C2C=C(NC2=CC=C1OC1=CC(=NC=N1)CO)C | C14H12FN3O2
